US08912208B2
A. [4-(4-Bromophenyl)-thiazol-2-yl]-(3-fluorophenyl)-amine
The title compound is prepared analogously to Example 2-1 step B using 2-bromo-1-(4-bromophenyl)-ethanone and 3-fluorophenylthiourea: (M+H)+ 350.9.

reactant | 2-bromo-1-(4-bromophenyl)-ethanone | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | 3-fluorophenylthiourea | FC=1C=C(C=CC1)NC(=S)N | C7H7FN2S
product | [4-(4-Bromophenyl)-thiazol-2-yl]-(3-fluorophenyl)-amine | BrC1=CC=C(C=C1)C=1N=C(SC1)NC1=CC(=CC=C1)F | C15H10BrFN2S
